*****************************************************************
* NXP PSMN1R7_25YLC
*
* Polarity N-Channel
* Ratings 25V/1.9E-03OHMS/25A
*
* Date Created Sun Apr  3 10:49:40 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R7_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00055


RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000846496508476059 TC=0.010153301437965,-1.30761814423284e-05
RBD 9 4 0.000611987816929152 TC=0.010153301437965,-1.30761814423284e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.10697894348692e-09
RG 1 2 0.776633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	3633
+ -12	3628
+ -10	3624
+ -5	3604
+ -4	3586
+ -3	3549.3
+ -2	3170
+ -1	2394
+ -0.5	2014
+ -0.2	1768.2
+ -0.1	1683.1
+ 0	1599.8
+ 0.1	1478.9
+ 0.2	1363.3
+ 0.5	1083.6
+ 1	810.7
+ 2	595.7
+ 3	510.4
+ 4	460.3
+ 5	426.6
+ 6	403.4
+ 8	370.9
+ 10	349
+ 12	333.9
+ 15	316
+ 20	294.6


.MODEL MINT NMOS(Vto=1.90621799436388 Kp=4.2363e+02 Nfs=350000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=700)

.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=3.64756317354493e-12
+ N=1 M=0.3 VJ=0.99 Fc=0.5 Cjo=3.5382e-09 Tt=3.595e-08)

.ENDS







